US08686002B2
6-Fluoro-3-(2-methoxybenzyl)quinolin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 2-amino-5-fluorobenzaldehyde and 3-(2-methoxyphenyl)propionitrile.

reactant | 2-amino-5-fluorobenzaldehyde | NC1=C(C=O)C=C(C=C1)F | C7H6FNO
reactant | 3-(2-methoxyphenyl)propionitrile | COC1=C(C=CC=C1)CCC#N | C10H11NO
product | 6-Fluoro-3-(2-methoxybenzyl)quinolin-2-amine | FC=1C=C2C=C(C(=NC2=CC1)N)CC1=C(C=CC=C1)OC | C17H15FN2O
